US07319104B2
A mixture of ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate (1.05 g; 2.57 mmol), 2-chloro-5-acetyl-pyridine (0.40 g; 2.57 mmol) and DIEA (0.36 g; 2.83 mmol) was heated in a pressure tube at 180C for 5 hr. Upon cooling, the residue was chromatographed using 20% ethyl acetate-hexane mixtures to afford ethyl 2-[4-(2-{(5-acetylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (0.48 g; 35% yield).

reactant | ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate | 2.57 mmol, 1.05 g | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)CCNCC1=CC=C(C=C1)C(F)(F)F | C22H26F3NO3
reactant | 2-chloro-5-acetyl-pyridine | 2.57 mmol, 0.40 g | ClC1=NC=C(C=C1)C(C)=O | C7H6ClNO
reactant | DIEA | 2.83 mmol, 0.36 g | CCN(C(C)C)C(C)C | C8H19N
product | ethyl 2-[4-(2-{(5-acetylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 0.48 g, 35% yield | C(C)(=O)C=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C29H31F3N2O4
